US06548538B2
2-Bromo-N-(4-tert-butyl-2-methylphenyl)acetamide
5.5 g (33.69 mmol) of 4-tert-butyl-2-methylaniline and 3.75 g (37.06 mmol) of triethylamine are initially charged in 150 ml of dichloromethane. At 0°-5° C., 7.48 g (37.06 mmol) of bromoacetyl bromide, dissolved in 90 ml of dichloromethane, are added dropwise, and a light-brown precipitate is formed. The mixture is stirred at room temperature overnight. 150 ml of ethyl acetate are then added to the reaction mixture, which is extracted successively with water, 1 N hydrochloric acid, water, saturated sodium bicarbonate soluton and water. The organic phase is dried over magnesium sulphate and freed from the solvent under reduced pressure. The residue is purified chromatographically. The product is recrystallized from ethyl acetate and n-pentane, filtered off with suction and dried under reduced pressure at 40° C. This gives 6.53 g (68% of theory) of the title compound.

reactant | 4-tert-butyl-2-methylaniline | 33.69 mmol, 5.5 g | C(C)(C)(C)C1=CC(=C(N)C=C1)C | C11H17N
reactant | triethylamine | 37.06 mmol, 3.75 g | C(C)N(CC)CC | C6H15N
reactant | bromoacetyl bromide | 37.06 mmol, 7.48 g | BrCC(=O)Br | C2H2Br2O
reactant | ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 90 ml | ClCCl | CH2Cl2
product | 2-Bromo-N-(4-tert-butyl-2-methylphenyl)acetamide | BrCC(=O)NC1=C(C=C(C=C1)C(C)(C)C)C | C13H18BrNO
